US08445684B2
3-(Benzyloxy)-5-[(1S,2S)-2-[(2-pyridylmethoxy)methyl]cyclopropyl]pyridine
To a solution of (1S,2S)-2-[5-(benzyloxy)-3-pyridyl]cyclopropylmethanol (150 mg, 0.59 mmol) in anhydrous THF (5 mL) in a 25 mL round-bottom flask was added sodium hydride (60% dispersion in mineral oil, 57 mg, 1.41 mmol, 2.4 equiv.). The flask was equipped with a condenser, and the atmosphere was exchanged with Ar (3 times). The suspension was stirred at room temperature for 2 h. 2-(Bromomethyl)pyridine hydrobromide (178 mg, 0.70 mmol, 1.2 equiv.) and tetra-n-butylammonium iodide (23 mg, 60 μmol, 0.1 equiv.) in dry THF (2 mL) were added. The resulting mixture was again protected with Ar and was stirred at room temperature overnight. Saturated NH4Cl solution (15 mL) was added to quench excessive sodium hydride, and the product was extracted into EtOAc (3×20 mL). The combined organic phases were washed with brine (15 mL), dried over Na2SO4, and concentrated. The residue was purified by CC on SiO2 (25×1.0 cm, EtOAc) to give the crude product as a colorless oil (181 mg, 88%). MS (EI) m/z 346 (M+, 6.8%).

reactant | (1S,2S)-2-[5-(benzyloxy)-3-pyridyl]cyclopropylmethanol | 0.59 mmol, 150 mg | C(C1=CC=CC=C1)OC=1C=C(C=NC1)[C@@H]1[C@H](C1)CO | C16H17NO2
reactant | sodium hydride | 1.41 mmol, 57 mg, 2.4 equiv. | [H-].[Na+]
reactant | 2-(Bromomethyl)pyridine hydrobromide | 0.70 mmol, 178 mg, 1.2 equiv. | Br.BrCC1=NC=CC=C1
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 60 μmol, 23 mg, 0.1 equiv. | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(Benzyloxy)-5-[(1S,2S)-2-[(2-pyridylmethoxy)methyl]cyclopropyl]pyridine | 181 mg, 88% | C(C1=CC=CC=C1)OC=1C=NC=C(C1)[C@@H]1[C@H](C1)COCC1=NC=CC=C1 | C22H22N2O2
